US08193182B2
To a stirred mixture of 3-((4-Amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-2-isopropyl-8-methylisoquinolin-1(2H)-one (2008) (95 mg, 0.2 mmol) and 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (66 mg, 0.3 mmol) in DMF-EtOH-H2O (3:1:1, 20 mL), Pd(OAc)2 (16 mg, 0.075 mmol), PPh3 (39.3 mg 0.15 mmol) and Na2CO3 (132 mg, 1.25 mmol) were added sequentially. The resulting mixture was degassed and back-filled with argon three times and then stirred at 100° C. for 1 h. The mixture was allowed to cool to RT, filtered through silica gel (10 g) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (2-20% MeOH/DCM) to afford the product, 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-2-isopropyl-8-methylisoquinolin-1(2H)-one (2009) (53 mg, 61% yield) as a slightly yellow solid.

reactant | 3-((4-Amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-2-isopropyl-8-methylisoquinolin-1(2H)-one | 0.2 mmol, 95 mg | NC1=C2C(=NC=N1)N(N=C2I)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C(C)C | C19H19IN6O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.3 mmol, 66 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | PPh3 | 0.15 mmol, 39.3 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 1.25 mmol, 132 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF EtOH-H2O | 20 mL | CN(C)C=O.C(C)O.O
catalyst | Pd(OAc)2 | 0.075 mmol, 16 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-2-isopropyl-8-methylisoquinolin-1(2H)-one | 53 mg, 61% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC(=CC=C2)O)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C(C)C | C25H24N6O2
